US06903215B2
To a mixture of 15.8 g of N,O-dimethylhydroxylamine hydrochloride in 400 mL of CH2Cl2, 21.7 mL of trifluoroacetic anhydride was added dropwise at 0° C. Pyridine (37 mL) was then added to the above mixture dropwise at 0° C. The resulting mixture was allowed to stir at 0° C. for 30 minutes, and was then quenched with water. The organic layer was washed with water, 1 N aqueous HCl, water and brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was pumped under vacuum for 5 minutes providing 2,2,2-trifluoro-N-methoxy-N-methylacetamide as a colorless oil.

reactant | N,O-dimethylhydroxylamine hydrochloride | 15.8 g | Cl.CNOC
reactant | Pyridine | 37 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 21.7 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-trifluoro-N-methoxy-N-methylacetamide | FC(C(=O)N(C)OC)(F)F | C4H6F3NO2
